US05064751
Into 200 ml of ethanol were poured 21.6 g (0.2 mol) of phenylhydrazine and 30 ml of triethylamine, and 21.6 g (0.2 mol) of ethyl chloroformate was slowly added dropwise thereto. After the addition, the mixture was refluxed for 30 minutes and then poured into ice-water. The mixture was extracted with ethyl acetate, and the extract was concentrated and purified by column chromatography to obtain 31 g of N-phenyl-N'-ethoxycarbonylhydrazine as an oily substance.

reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | phenylhydrazine | 0.2 mol, 21.6 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | ethyl chloroformate | 0.2 mol, 21.6 g | ClC(=O)OCC | C3H5ClO2
solvent | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
product | N-phenyl-N'-ethoxycarbonylhydrazine | 31 g | C1(=CC=CC=C1)NNC(=O)OCC | C9H12N2O2
